US07238808B2
Step 1) (3-Fluoro-pyridin-2-yl)-(4-methoxy-benzyl)-amine
A mixture of commercially available 2-chloro-3-fluoromethylpyridine (10.53 g, 80 mmol), 4-methoxybenzylamine (12.5 mL, 96 mmol), DIPEA (16.5 mL, 96 mmol) and DMAP (150 mg) in n-butanol (20 mL) was refluxed (oilbath temp. 140° C.) for 12 days. Concentrated in vacuum and directly subjected to chromatography. Silica gel column chromatography gave the title compound as a yellow liquid (6.3 g, 34%). MS (ISP) 233.1 [(M+H)+].

reactant | 2-chloro-3-fluoromethylpyridine | 80 mmol, 10.53 g | ClC1=NC=CC=C1CF | C6H5ClFN
reactant | 4-methoxybenzylamine | 96 mmol, 12.5 mL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | DIPEA | 96 mmol, 16.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | n-butanol | 20 mL | C(CCC)O | C4H10O
catalyst | DMAP | 150 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (3-Fluoro-pyridin-2-yl)-(4-methoxy-benzyl)-amine | 6.3 g, 34% | FC=1C(=NC=CC1)NCC1=CC=C(C=C1)OC | C13H13FN2O
